US06204264B1
1-[3-(Dimethylamino)propyl]-2-heptadecyl-N,N-dimethyl-1H-benzimidazole-5-carboxamide monohydrochloride (Compound 22)
4N Hydrochloric acid/ethyl acetate solution (0.20 ml) was added to a solution containing 1-[3-(dimethylamino)propyl]-2-heptadecyl-N,N-dimethyl-1H-benzimidazole-5-carboxamide (0.41 g) in ethyl acetate (4 ml). After being stirred for 10 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with a mixed solution of n-hexane-ethyl acetate, thereby yielding the entitled compound (0.32 g) as grayish yellow solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.20 ml | Cl.C(C)(=O)OCC
reactant | 1-[3-(dimethylamino)propyl]-2-heptadecyl-N,N-dimethyl-1H-benzimidazole-5-carboxamide | 0.41 g | CN(CCCN1C(=NC2=C1C=CC(=C2)C(=O)N(C)C)CCCCCCCCCCCCCCCCC)C | C32H56N4O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3-(Dimethylamino)propyl]-2-heptadecyl-N,N-dimethyl-1H-benzimidazole-5-carboxamide monohydrochloride | 0.32 g | Cl.CN(CCCN1C(=NC2=C1C=CC(=C2)C(=O)N(C)C)CCCCCCCCCCCCCCCCC)C | InChI=1S/C32H56N4O.ClH/c1-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-22-31-33-29-27-28(32(37)35(4)5)23-24-30(29)36(31)26-21-25-34(2)3;/h23-24,27H,6-22,25-26H2,1-5H3;1H
